US06423246B1
The 4-hydroxyphenyl acrylate required can be obtained by selective monocleavage of hydroquinone bisacrylate using sodium methoxide analogously to DE 44 42 831 (corresponds to U.S. Pat. No. 5,654,471) in a yield of 91%. The monoacrylate is liquid at room temperature. The acid component to the above ester, 4-(4-acryloyloxybutoxy)benzoic acid, can be obtained by reacting 4-chlorobutyl acetate with methyl 4-hydroxybenzoate, hydrolyzing the resultant alkylated methyl ester to give free 4-(4-hydroxybutoxy)benzoic acid, and esterifying the latter on the hydroxybutoxy radical using acrylic acid. This acid melts at 124° C. (yield 70%) and can be converted into the acid chloride by conventional reaction with thionyl chloride.

reactant | 4-chlorobutyl acetate | C(C)(=O)OCCCCCl | C6H11ClO2
reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
product | 4-(4-hydroxybutoxy)benzoic acid | yield 70% | OCCCCOC1=CC=C(C(=O)O)C=C1 | C11H14O4
